US08222416B2
A mixture of AD-mix-β (9.9 g) and methanesulfonyl amide (670 mg, 7.04 mmol) in tert-butyl alcohol/water (1:1 v/v, 120 mL) was stirred at 25° C. until it became a clear solution. The solution was then cooled to 0° C. and a solution of 1-benzenesulfonyl-5-vinyl-1H-pyrrolo[2,3-b]pyridine (2.0 g, 7.04 mmol) in tert-butyl alcohol/water (1:1 v/v, 40 mL) was slowly added. The mixture was stirred at 0° C. for 12 h. Sodium sulfite (11.2 g, 88.2 mmol) was then added at 25° C. and the mixture was stirred for 30 min until all of the salt dissolved. The mixture was then extracted with ethyl acetate, washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo to afford a single stereoisomer of 1-(1-benzenesulfonyl-pyrrolo[2,3-b]pyridine-5-yl)-ethane-1,2-diol as a colorless oil (2.1 g, 94%) which was used in the next step without purification.

reactant | AD-mix-β | 9.9 g | CC[C@H]1CN2CC[C@H]1C[C@@H]2[C@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | methanesulfonyl amide | 7.04 mmol, 670 mg | CS(=O)(=O)[NH-]
reactant | 1-benzenesulfonyl-5-vinyl-1H-pyrrolo[2,3-b]pyridine | 7.04 mmol, 2.0 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2)C=C | C15H12N2O2S
reactant | Sodium sulfite | 88.2 mmol, 11.2 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | tert-butyl alcohol water | 120 mL | C(C)(C)(C)O.O
solvent | tert-butyl alcohol water | 40 mL | C(C)(C)(C)O.O
product | 1-(1-benzenesulfonyl-pyrrolo[2,3-b]pyridine-5-yl)-ethane-1,2-diol | 2.1 g, 94% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2)C(CO)O | C15H14N2O4S
